### PR TITLE
Add small-step semantics of Lambda

### PR DESCRIPTION
**Pull request by aqjune-aws**
This pull request adds a small-steps semantics of Lambda! :)

`LExprEvalTests.lean` shows how the small-step semantics evaluates to the same result, for examples that were already working for concrete evaluator.

There is an interesting update in the definition if `isCanonicalValue`.

If `e:LExpr` is a series of `.app`, say `e0 e1 .. en`, `e` is a canonical value if

(1) (_already existed before this PR, added by @joscoh_) `e0` is a constructor and `e1 .. en` are all canonical values, or
(2) (_newly added_) `e0` is a named function `f` (not abstraction) and `n` is less than the number of arguments required to run the function `f`.

The intuition of case (2) is as follows. Let's assume that we would like to calculate `Int.Add 1 (2+3)`. According to the small step semantics, we would like to calculate `2+3` to `5`, hence it becomes `Int.Add 1 5` and eventually 6.
Without (2), this is impossible because the `reduce_2` rule of small step semantics only fires when `Int.Add 1` is a 'canonical value'. Therefore, without (2), the semantics stuck and `2+3` can never be evaluated to `5`.

By submitting this pull request, I confirm that you can use, modify, copy, and redistribute this contribution, under the terms of your choice.

### CODE REVIEW

File: Strata/DL/Lambda/Semantics.lean [hunk 1]
```diff
@@ -0,0 +1,137 @@
...
+| beta:
+  ∀ (σ:LState IDMeta) (e1 v2:LExpr LMonoTy IDMeta),
+    LExpr.isCanonicalValue σ v2 →
+    Step σ (.app (.abs ty e1) v2) (LExpr.subst v2 e1)
+
+-- Universal quantification.
+| beta_univ:
+  ∀ (σ:LState IDMeta) (e1 v2 trig:LExpr LMonoTy IDMeta),
+    LExpr.isCanonicalValue σ v2 →
+    Step σ (.app (.quant .all ty trig e1) v2) (LExpr.subst v2 e1)
```
Comment (joscoh) [inline Strata/DL/Lambda/Semantics.lean]: I don't think this rule should exist in the semantics, is it in the evaluator? This expression is not well-typed, since `.quant ...` has type `bool`, not an arrow type. On that note, I am pretty sure quantifiers should be canonical values like lambdas, though this is probably not relevant for this PR.

File: Strata/DL/Lambda/Semantics.lean [hunk 2]
```diff
@@ -0,0 +1,137 @@
...
+  ∀ (σ:LState IDMeta) (econd econd' ethen eelse:LExpr LMonoTy IDMeta),
+    Step σ econd econd' →
+    Step σ (.ite econd ethen eelse) (.ite econd' ethen eelse)
+
+-- Equality. Reduce after both operands evaluate to values.
+| beta_eq:
+  ∀ (σ:LState IDMeta) (e1 e2:LExpr LMonoTy IDMeta)
+    (H1:LExpr.isCanonicalValue σ e1)
+    (H2:LExpr.isCanonicalValue σ e2),
+    Step σ (.eq e1 e2) (.const (.boolConst (LExpr.eql σ e1 e2 H1 H2)))
```
Comment (joscoh) [inline Strata/DL/Lambda/Semantics.lean]: This rule makes sense, but it's worth noting it would be difficult to apply in Lean. Maybe it should be written similar to `expand_fn`?

File: Strata/DL/Lambda/Semantics.lean [hunk 3]
```diff
@@ -0,0 +1,137 @@
...
+    σ.config.factory.callOfLFunc e = .some (callee,args,fn) →
+    args.all (LExpr.isCanonicalValue σ) →
+    fn.body = .some fnbody →
+    new_body = LExpr.substFvars fnbody (fn.inputs.keys.zip args) →
+    Step σ e new_body
+
+-- The second way of evaluating a function call.
+-- If LFunc has a concrete evaluator, this can be used to 'jump' to the final
+-- result of the function.
+| eval_fn:
```
Comment (joscoh) [inline Strata/DL/Lambda/Semantics.lean:120]: Not an issue for this PR, but it is worth noting that until we enforce that a `Factory` function can have either a body or a concrete evaluator, but not both, this semantics is not deterministic.

File: Strata/DL/Lambda/Semantics.lean [hunk 4]
```diff
@@ -0,0 +1,137 @@
...
+Currently only defined for LMonoTy, but it will be expanded to an arbitrary
+type.
+The order of constructors matter because the `constructor` tactic will rely on
+it.
+This small-step definitions faithfully follows the behavior of LExpr.eval,
+except that this inductive definition may stuck early when there is no
+assignment to a free variable available in LState.
+-/
+inductive Step
+  : LState IDMeta → LExpr LMonoTy IDMeta → LExpr LMonoTy IDMeta → Prop where
```
Comment (joscoh) [inline Strata/DL/Lambda/Semantics.lean]: 1. Minor, but maybe it should be `inductive Step (sigma : LState IDMeta) : LExpr -> LExpr -> Prop` to avoid having to write `forall sigma` everywhere.
2. Should the semantics really depend on `LState`? To me that seems like overkill, since the state includes multiple scopes, a fuel parameter, variable generation info, etc. The only context the semantics really needs is 1) the `Factory` instance and (2) the free variable values. I would recommend that these be parameters of the `inductive` rather than `LState`, though I am open to alternatives. The reason I say this is because with the current setup, if we want to prove things about the semantics later, we will likely need a bunch of tedious lemmas asserting that the semantics do not change under many irrelevant changes to the `LState`.

File: StrataTest/DL/Lambda/LExprEvalTests.lean [hunk 5]
```diff
@@ -19,23 +20,79 @@ section EvalTest
...
+  · apply Step.beta_eq <;> discharge_isCanonicalValue
+  take_step; apply Step.ite_beta_else
+  apply StepStar.refl
+
+
 /-- info: (f #true) -/
 #guard_msgs in
 #eval format $ LExpr.eval 10 ∅ esM[(f #true)]
 
+theorem nil_state_empty {Ty}: (∅:LState Ty).state = [] := by
```
Comment (joscoh) [inline StrataTest/DL/Lambda/LExprEvalTests.lean]: Why is this needed?

File: Strata/DL/Lambda/Semantics.lean (hunk 4 above)
Comment (aqjune-aws) [reply Strata/DL/Lambda/Semantics.lean]: Makes sense.... I think `Scopes` will be still necessary because it is virtually a register file (in fact I tried refactoring `Scopes` to a register file without a concept of stack of scopes but chose to abandon because the effort did not seem worth) but fuel and gen stuffs are not necessary.

File: Strata/DL/Lambda/Semantics.lean (hunk 1 above)
Comment (aqjune-aws) [reply Strata/DL/Lambda/Semantics.lean]: I think I can make these values. I tried on my local clone and this did not break any proof :)

File: Strata/DL/Lambda/Semantics.lean (hunk 3 above)
Comment (aqjune-aws) [reply Strata/DL/Lambda/Semantics.lean:120]: Yes, this is right. There need an extra wellformedness statement enforcing that the body evaluates (using StepStar) to the same constant value as the concrete evaluator. This is missing in this PR, but wanted to make semantics checked in first :)

File: StrataTest/DL/Lambda/LExprEvalTests.lean (hunk 5 above)
Comment (aqjune-aws) [reply StrataTest/DL/Lambda/LExprEvalTests.lean]: This was a remnant of struggling with proofs in early stage; removed it

File: Strata/DL/Lambda/Semantics.lean (hunk 2 above)
Comment (aqjune-aws) [reply Strata/DL/Lambda/Semantics.lean]: Done

File: Strata/DL/Lambda/Semantics.lean (hunk 4 above)
Comment (joscoh) [reply Strata/DL/Lambda/Semantics.lean]: What do you mean by a register file? In the semantics, IIUC the only way the scopes are used is to look up a variable value, so from the perspective of the semantics, the Scopes is just a single map with a lookup capability. For that matter, I am not sure what the Scopes gives us in the concrete evaluator either, but maybe that's a separate discussion.

Comment (aqjune-aws) [reply Strata/DL/Lambda/Semantics.lean]: I mean the Scopes component of LState is still necessary for this small step semantics, without further processing to collapse the multiple scopes into one Map which does not distinguish between scopes.
The updated `inductive Step ...` definition describes my suggestion.

File: Strata/DL/Lambda/Semantics.lean (hunk 3 above)
Comment (joscoh) [reply Strata/DL/Lambda/Semantics.lean:120]: Small clarification: the concrete evaluator does not necessarily need to evaluate to a constant (it does not for inductive types). So it should suffice for the concrete evaluator to take 1 or more steps allowed by StepStar of the body.

Comment (aqjune-aws) [reply Strata/DL/Lambda/Semantics.lean:120]: Thanks for letting me know :)

File: Strata/DL/Lambda/Semantics.lean (hunk 4 above)
Comment (aqjune-aws) [reply Strata/DL/Lambda/Semantics.lean]: To clarify - I understood that (1) Scopes is a register file from Lambda perspective, with an extra feature of distinguishing between scopes. But the concept of scoping is not necessary in Lambda at all. (2) It is an engineering question whether we want a dedicated register file data structure for Lambda by collapsing the scopes.

File: Strata/DL/Lambda/Semantics.lean [hunk 6]
```diff
@@ -0,0 +1,146 @@
...
+/--
+A small-step semantics of LExpr.
+Currently only defined for LMonoTy, but it will be expanded to an arbitrary
+type.
+The order of constructors matter because the `constructor` tactic will rely on
+it.
+This small-step definitions faithfully follows the behavior of LExpr.eval,
+except that this inductive definition may stuck early when there is no
+assignment to a free variable available in LState.
+-/
```
Comment (joscoh) [inline Strata/DL/Lambda/Semantics.lean:42]: Very minor: should update comment to avoid reference to `LState`.

File: StrataTest/DL/Lambda/LExprEvalTests.lean [hunk 7]
```diff
@@ -19,23 +20,77 @@ section EvalTest
...
 #guard_msgs in
 #eval format $ LExpr.eval 100
                           { LState.init with state := [[("x", (mty[int], esM[#32]))]] }
                           esM[((λ (if (%0 == #23) then #17 else #42)) (x : int))]
 
+example:
+  Lambda.StepStar
+    LState.init.config.factory
+    [("x", esM[#32])]
+    esM[((λ (if (%0 == #23) then #17 else #42)) (x : int))]
```
Comment (atomb) [inline StrataTest/DL/Lambda/LExprEvalTests.lean]: I'd love to reduce the duplication between this and the `#eval` above. By introducing some local definitions for the context and expression, we could ensure that the `#guard_msgs` and `example` are working on the same thing. The same goes for the other examples below. It's a bit of work, but I think it'd help ensure that everything's correct.

File: Strata/DL/Lambda/Semantics.lean [hunk 8]
```diff
@@ -0,0 +1,146 @@
...
+namespace Lambda
+
+variable {IDMeta:Type} [DecidableEq IDMeta]
+
+open Lambda
+
+/--
+A free variable -> expression mapping.
+-/
+abbrev FreeVarMap := Map (Identifier IDMeta) (LExpr LMonoTy IDMeta)
```
Comment (atomb) [inline Strata/DL/Lambda/Semantics.lean]: It would be more symmetrical with the `Imperative` semantics, and more general, if this were `abbrev Env := Identifier IDMeta -> Option (LExpr LMonoTy IDMeta)`. That is, it's more flexible to think of an environment as a function rather than a data structure.

File: Strata/DL/Lambda/Semantics.lean [hunk 9]
```diff
@@ -0,0 +1,146 @@
...
+  ∀ (e callee fnbody new_body:LExpr LMonoTy IDMeta) args fn,
+    F.callOfLFunc e = .some (callee,args,fn) →
+    args.all (LExpr.isCanonicalValue F) →
+    fn.body = .some fnbody →
+    new_body = LExpr.substFvars fnbody (fn.inputs.keys.zip args) →
+    Step F rf e new_body
+
+-- The second way of evaluating a function call.
+-- If LFunc has a concrete evaluator, this can be used to 'jump' to the final
+-- result of the function.
```
Comment (atomb) [inline Strata/DL/Lambda/Semantics.lean:119]: I love that we have semantics for built-in functions like this, and that the semantics forces us to think about whether the body of a function and its denotation agree. If they don't, evaluation isn't normalizing (which I think is the right way to think about it).

Comment (joscoh) [reply Strata/DL/Lambda/Semantics.lean:119]: I think normalization is orthogonal to the agreement between the body and the denotation. For instance, for function `f`, either the body or the denotation could be `f`, which leads to nontermination, even if they agree.

Comment (atomb) [reply Strata/DL/Lambda/Semantics.lean:119]: Yep, you're right. And, currently, the denotation very likely might be the identity function on at least some inputs. It makes me wonder whether the denotation should return `.none` in the case where it can't evaluate, rather than returning the original expression.

Comment (aqjune-aws) [reply Strata/DL/Lambda/Semantics.lean:119]: > It makes me wonder whether the denotation should return .none in the case where it can't evaluate, rather than returning the original expression.

I agree. Very tempting to change it in this pull request as well.... but probably I should do after Shilpi comes back from vacation so that she has time to have a look.
I will reflect your comments after the metadata pull request is merged.

Comment (atomb) [reply Strata/DL/Lambda/Semantics.lean:119]: Yeah, I agree. I'm happy to use this version for now and make that refactoring separately, with Shilpi's input.

File: Strata/DL/Lambda/Semantics.lean (hunk 8 above)
Comment (aqjune-aws) [reply Strata/DL/Lambda/Semantics.lean]: Switched to a function type. :)

File: StrataTest/DL/Lambda/LExprEvalTests.lean (hunk 7 above)
Comment (aqjune-aws) [reply StrataTest/DL/Lambda/LExprEvalTests.lean]: Yes, for each test case I added an instance of `TestCase` type which has (initial state, initial expr, output expr). `check (t:TestCase)` does concrete evaluation and returns bool, `steps_well (t:TestCase)` makes a proposition that states StepStar goes well (but should be manually proven), and `stuck (t:TestCase)` makes another Prop that states Step immediately stucks.

File: StrataTest/DL/Lambda/LExprEvalTests.lean [hunk 10]
```diff
@@ -120,82 +255,380 @@ private def testState : LState TestParams :=
...
+def test22 := TestCase.mk
+  testState
+  esM[((~Int.Div x) ((~Int.Add #2) #1))]
+  esM[((~Int.Div x) #3)]
+
+/-- info: true -/
+#guard_msgs in
+#eval check test22
+
+-- TODO: steps_well proof of test22
```
Comment (aqjune-aws) [inline StrataTest/DL/Lambda/LExprEvalTests.lean:595]: test22~test25 are left as TODO. :)
If the small step sem was using evaluation context `[.]`, proofs could have been much more automatic because I could write a function that determines the context. But I sticked to the most basic form of semantics for presentation purpose. Probably we can have `[.]` in the future as well.

File: StrataTest/DL/Lambda/LExprEvalTests.lean (hunk 7 above)
Comment (atomb) [reply StrataTest/DL/Lambda/LExprEvalTests.lean]: Nice!

**Review by atomb — APPROVED** [review]
Looks good!
